US04125729
Methyl α-[p-(1-adamantyl)phenoxy]-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 5.7 g of p-(1-adamantyl))phenol, 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. After 20 minutes, a white solid separates. The mixture is refluxed overnight, cooled and filtered to remove the white solid. The solid is heated in 50 ml of hot chloroform and filtered to remove a small amount of insoluble residue. The filtrate is diluted with 50 ml of hexane and filtered to give the product as white crystals, mp 148.4°-150.5° C.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Methyl α-[p-(1-adamantyl)phenoxy]-α-[p-(p-chlorophenoxy)phenyl]acetate | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(OC(C(=O)OC)C3=CC=C(C=C3)OC3=CC=C(C=C3)Cl)C=C2 | C31H31ClO4
